US07648987B2
8-Amino-1-(8-fluoro-2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazine-3-thiol
A solution of 1-(8-fluoro-2-phenyl-quinolin-7-yl)-3-methylsulfanyl-imidazo[1,5-a]pyrazin-8-ylamine (24 mg, 0.000060 mol) in AcOH (1 mL, 0.02 mol) was charged with hydrogen bromide (300 uL, 0.006 mol) and refluxed at 118° C. over weekend. An additional 5 eq of HBr were added and the reaction mixture was heated at 118° C. for 4-5 h. The reaction was stopped and cooled in ice. Orange precipitate formed on cooling in ice. The reaction mixture was concentrated in vacuo and washed with hexanes to obtain the title compound as an orange gummy solid. 1H NMR (400 MHz, CD3OD d4): δ=7.56 (dd, J=7.33, 3.28 Hz, 1H), 7.63-7.68 (m, 4H), 7.84-7.90 (m, 1H), 8.15 (d, J=8.84 Hz, 1H), 8.19-8.25 (m, 2H), 8.37 (d, J=8.59 Hz, 1H), 8.87 (d, J=8.84 Hz, 1H). MS (ES+): m/z 388.21 (100). HPLC: tR=2.42 min (Open Lynx polar—5 min). Note: Precipitate formed on cooling in ice. At rt the compound is oily.

reactant | 1-(8-fluoro-2-phenyl-quinolin-7-yl)-3-methylsulfanyl-imidazo[1,5-a]pyrazin-8-ylamine | 0.000060 mol, 24 mg | FC=1C(=CC=C2C=CC(=NC12)C1=CC=CC=C1)C=1N=C(N2C1C(=NC=C2)N)SC | C22H16FN5S
reactant | AcOH | 0.02 mol, 1 mL | CC(=O)O | C2H4O2
reactant | hydrogen bromide | 0.006 mol, 300 uL | Br | BrH
reactant | HBr | 5 eq | Br | BrH
product | 8-Amino-1-(8-fluoro-2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazine-3-thiol | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2F)C2=CC=CC=C2)S | C21H14FN5S
